US08110575B2
Step 1: 2-but-1-ynyl-5-fluoro-phenylamine
160 mL of THF were placed in the flask and degassed with argon. Then 10 g (45 mmol) 5-fluoro-2-iodo-aniline, 1.5 g (2.1 mmol) PdCl2(PPh3)2 and 0.40 g (2.1 mmol) copper iodide were added and the flask was rinsed with argon. Then 18 mL (0.13 mol) triethylamine were added and 3.0 g (55 mmol) 1-butyne (in gaseous form) were passed through the solution. The reaction mixture was stirred for 3 h at RT, then diluted with diethyl ether, filtered through kieselguhr and evaporated down.

reactant | THF | 160 mL | C1CCOC1 | C4H8O
reactant | 5-fluoro-2-iodo-aniline | 45 mmol, 10 g | FC=1C=CC(=C(N)C1)I | C6H5FIN
reactant | triethylamine | 0.13 mol, 18 mL | C(C)N(CC)CC | C6H15N
reactant | 1-butyne | 55 mmol, 3.0 g | C#CCC | C4H6
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | PdCl2(PPh3)2 | 2.1 mmol, 1.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 2.1 mmol, 0.40 g | [Cu](I)I
product | 2-but-1-ynyl-5-fluoro-phenylamine | C(#CCC)C1=C(C=C(C=C1)F)N | C10H10FN
